* C:\Users\User\Desktop\Chua_TL\tu-delft\Q1\analog-circuit-design-fundamentals-fa21\hw\hw01\spice\q4\nmos-testbench.asc
M1 N001 N002 0 0 nch l=1u w=3u
VGS N002 0 0.9
VDS N001 0 1.8
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\User\Documents\LTspiceXVII\lib\cmp\standard.mos
.lib 'C:\Program Files\LTC\LTspiceXVII\lib\cmp\log018.l' TT
.dc VDS 0 1.8 0.001
.backanno
.end
