* C:\Users\User\Desktop\Chua_TL\tu-delft\Q1\analog-circuit-design-fundamentals-fa21\hw\hw02\spice\q5\a\cascode.asc
M1 X N003 0 0 nch l=0.36u w=36u
VDD N001 0 3.3
VIN N003 0 0.6 AC 1
Vb N002 0 1.5
RD N001 Vout 5k
M2 Vout N002 X 0 nch l=0.18u w=18u
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\User\Documents\LTspiceXVII\lib\cmp\standard.mos
.lib 'C:\Program Files\LTC\LTspiceXVII\lib\cmp\log018.l' TT
;ac dec 10 1k 1G
.op
;dc vin 0 3.3 0.001
.backanno
.end
