* C:\Users\User\Desktop\Chua_TL\tu-delft\Q1\analog-circuit-design-fundamentals-fa21\hw\hw02\spice\q6\a\cascode.asc
M1 X N004 0 0 nch l=0.36u w=36u
VDD N001 0 3.3
VIN N004 0 0.593 AC 1
Vb N003 0 0.825
RD N001 N002 5k
M2 N002 N003 X 0 nch l=0.18u w=18u
Vout N002 0 1V
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\User\Documents\LTspiceXVII\lib\cmp\standard.mos
.lib 'C:\Program Files\LTC\LTspiceXVII\lib\cmp\log018.l' TT
;ac dec 10 1k 1G
;op
.dc vout 0 3.3 0.001
.backanno
.end
